US07101886B2
3-METHYL-2-NITROBENZYL BROMIDE
A round bottomed flask was charged with 5.0 g (0.029 mol) of 3-methyl-2-nitrobenzyl alcohol and 100 mL of anhydrous acetonitrile. The reaction solution was cooled to 0° C. and treated, portionwise, with 13.2 g (0.031 mol) triphenylphosphine perbromide (Ph3P—Br2). The reaction was allowed to warm to rt overnight at which point the solvent was removed and the resulting solids triturated with 50:50 ether:hexanes. The wash solvent was filtered through a fine frit and then concentrated to give a quantitative yield (7.03 g) of the desired material as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.36–7.34 (m, 2H), 7.33–7.24 (m, 1H), 4.45 (s, 2H), 2.33 (s, 3H).

reactant | 3-methyl-2-nitrobenzyl alcohol | 0.029 mol, 5.0 g | CC=1C(=C(CO)C=CC1)[N+](=O)[O-] | C8H9NO3
reactant | triphenylphosphine | 0.031 mol, 13.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Ph3P Br2 | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.BrBr
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3-METHYL-2-NITROBENZYL BROMIDE | 7.03 g, quantitative yield | CC=1C(=C(CBr)C=CC1)[N+](=O)[O-] | C8H8BrNO2
